US08669249B2
Synthesis of 6-(piperidin-1-ylsulfonyl)-2H-benzo[b][1,4]oxazin-3(4H)-one (115)
To a 15 mL screw cap vial was added 4-hydroxy-3-nitrobenzene-1-sulfonyl chloride (238 mg, 1.0 mmol) and piperidine (102 mg, 1.2 mmol) in DCM (5.0 mL) followed by triethylamine (346 μL, 2.5 mmol). After stirring at 23° C. for 1 h, the reaction was concentrated in vacuo and the resulting residue was taken up in sat aqueous NaHCO3. The resulting solid was isolated by filtration, washed with water and dried in vacuo to give a white solid. The material was subsequently alkylated using the general procedure for alkylation of substituted 2-nitrophenols using methyl bromoacetate as the alkylating agent followed by treatment in the general procedure for reduction of nitro group and subsequent ring closure to give the title compound as a white solid: 1H NMR (DMSO-d6, 400 MHz): δ=10.91 (s, 1H), 7.21-7.32 (m, 2H), 7.15 (d, J=8.1 Hz, 1H), 4.71 (s, 2H), 2.85 (t, J=5.1 Hz, 4H), 1.46-1.62 (m, 4H), 1.37 ppm (d, J=5.1 Hz, 2H). ESI-MS: m/z 297.1 (M+H)+.

reactant | 4-hydroxy-3-nitrobenzene-1-sulfonyl chloride | 1.0 mmol, 238 mg | OC1=C(C=C(C=C1)S(=O)(=O)Cl)[N+](=O)[O-] | C6H4ClNO5S
reactant | piperidine | 1.2 mmol, 102 mg | N1CCCCC1 | C5H11N
reactant | triethylamine | 2.5 mmol, 346 μL | C(C)N(CC)CC | C6H15N
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
solvent | DCM | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 6-(piperidin-1-ylsulfonyl)-2H-benzo[b][1,4]oxazin-3(4H)-one | N1(CCCCC1)S(=O)(=O)C1=CC2=C(OCC(N2)=O)C=C1 | C13H16N2O4S
